US07348359B2
Diisobutylaluminum hydride (2.4 ml, 1M soln., 2.4 mmol) was added dropwise to a solution of 3-(2-ethoxy-3,5-diisopropyl-phenyl)-imidazo[1,2-a]pyridine-6-carboxylic acid methyl ester (300 mg, 0.79 mmol) in dichloromethane (10 mL) which had been cooled to −78° C. under a nitrogen atmosphere. After the addition was complete, the reaction was kept at −78° C. for 4 h, then quenched with with methanol (10 mL). After addition of the methanol, the mixture was poured into water, filtered and the solution evaporated to a residue. The residue was purified by silica gel chromatography (2.5% MeOH in dichloromethane) to give [3-(2-ethoxy-3,5-diisopropyl-phenyl)-imidazo[1,2-a]pyridin-6-yl]-methanol as a clear glass (102 mg, 38%). 1H NMR (250 MHz, CDCl3): δ 8.01 (s, 1H), 7.70 (bs, 1H), 7.64 (d, 1H, J=9.4), 7.24 (m, 2H), 7.12 (d, 1H, J=0.62), 4.73 (s, 1H), 3.45 (m, 1H), 3.35 (q, 2H, J=7.0), 1.34 (s, 3H), 1.31 (s, 3H), 1.30 (s, 3H), 1.29 (s, 3H), 0.84 (t, 3H, J=7.0), MS [EI+] 353 (M+H)+.

reactant | Diisobutylaluminum hydride | 2.4 mmol, 1M, 2.4 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 3-(2-ethoxy-3,5-diisopropyl-phenyl)-imidazo[1,2-a]pyridine-6-carboxylic acid methyl ester | 0.79 mmol, 300 mg | COC(=O)C=1C=CC=2N(C1)C(=CN2)C2=C(C(=CC(=C2)C(C)C)C(C)C)OCC | C23H28N2O3
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | [3-(2-ethoxy-3,5-diisopropyl-phenyl)-imidazo[1,2-a]pyridin-6-yl]-methanol | 102 mg, 38% | C(C)OC1=C(C=C(C=C1C(C)C)C(C)C)C1=CN=C2N1C=C(C=C2)CO | C22H28N2O2
